US05614544
(E)-3-[4-[2-(5-Methyl-4-phenyl-2-thiazolyl)ethyl]phenyl]-2-propenol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield 4-[2-(5-methyl-4-phenyl-2-thiazolyl)ethyl]cinnamaldehyde, which was then recrystallized from ethyl acetate-hexane to yield colorless prisms having a melting point of 94°-95° C.

reactant | (E)-3-[4-[2-(5-Methyl-4-phenyl-2-thiazolyl)ethyl]phenyl]-2-propenol | CC1=C(N=C(S1)CCC1=CC=C(C=C1)/C=C/CO)C1=CC=CC=C1 | C21H21NOS
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 4-[2-(5-methyl-4-phenyl-2-thiazolyl)ethyl]cinnamaldehyde | CC1=C(N=C(S1)CCC1=CC=C(C=CC=O)C=C1)C1=CC=CC=C1 | C21H19NOS
